.subckt buf_x4 vdd vss i q
Mstage0_nmos _i_n i vss vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.145e-06
Mstage0_pmos _i_n i vdd vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=1.505e-06
Mnmos[0] vss _i_n q vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.145e-06
Mpmos[0] vdd _i_n q vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=1.505e-06
Mnmos[1] q _i_n vss vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.145e-06
Mpmos[1] q _i_n vdd vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=1.505e-06
Mnmos[2] vss _i_n q vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.145e-06
Mpmos[2] vdd _i_n q vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=1.505e-06
Mnmos[3] q _i_n vss vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.145e-06
Mpmos[3] q _i_n vdd vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=1.505e-06
.ends buf_x4
