.subckt inv_x0 vdd vss i nq
Mnmos vss i nq vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=8.4e-07
Mpmos vdd i nq vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=8.4e-07
.ends inv_x0
