.subckt inv_x1 vdd vss i nq
Mnmos vss i nq vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mpmos vdd i nq vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
.ends inv_x1
