.subckt nand4_x1 vdd vss nq i0 i1 i2 i3
Mi0_nmos vss i0 _net0 vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mi0_pmos vdd i0 nq vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
Mi1_nmos _net0 i1 _net1 vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mi1_pmos nq i1 vdd vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
Mi2_nmos _net1 i2 _net2 vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mi2_pmos vdd i2 nq vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
Mi3_nmos _net2 i3 nq vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mi3_pmos nq i3 vdd vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
.ends nand4_x1
