.subckt nor2_x0 vdd vss nq i0 i1
Mi0_nmos vss i0 nq vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=8.4e-07
Mi0_pmos vdd i0 _net0 vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=8.4e-07
Mi1_nmos nq i1 vss vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=8.4e-07
Mi1_pmos _net0 i1 nq vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=8.4e-07
.ends nor2_x0
