.subckt nor3_x0 vdd vss nq i0 i1 i2
Mi0_nmos vss i0 nq vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=8.4e-07
Mi0_pmos vdd i0 _net0 vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=8.4e-07
Mi1_nmos nq i1 vss vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=8.4e-07
Mi1_pmos _net0 i1 _net1 vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=8.4e-07
Mi2_nmos vss i2 nq vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=8.4e-07
Mi2_pmos _net1 i2 nq vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=8.4e-07
.ends nor3_x0
